US08710284B2
e) Synthesis of 2,11-dibromobenzo[c]phenanthrene
46 g (118 mmol) of 2,11-dibromo-5,6,6a,7,8,12b-hexahydrobenzo[c]phenanthrene and 80.6 g (355 mmol) of DDQ are heated under reflux for 30 h in 300 ml of toluene. After the reaction mixture has been cooled to room temperature, the precipitated hydroquinone is filtered off and washed twice with 50 ml of toluene each time. The solvent is stripped off from the combined organic phases, and the residue is dried in vacuo. The crude product is sublimed at 190° C. and 0.01 mbar, and the sublimate is recrystallised from isopropanol. Yield: 19.6 g (110 mmol), 43%.

reactant | 2,11-dibromo-5,6,6a,7,8,12b-hexahydrobenzo[c]phenanthrene | 118 mmol, 46 g | BrC1=CC2=C(CCC3CCC=4C=CC(=CC4C23)Br)C=C1 | C18H16Br2
reactant | DDQ | 355 mmol, 80.6 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2,11-dibromobenzo[c]phenanthrene | BrC1=CC2=C(C=CC=3C=CC=4C=CC(=CC4C23)Br)C=C1 | C18H10Br2
